US04638060
(A) N-(t-Butoxycarbonyl)-α-(4-hydroxy-2,3,5,6-tetrahydro-4-pyranyl)glycine, benzyl ester
A solution of diisopropylamine (17.5 ml, 0.127 moles) in 300 ml of dry tetrahydrofuran at -45° C. under argon was treated with 70 ml (0.117 moles) of 1.71 M n-butyllithium (in hexane). After 20 minutes at -45° C., the mixture was cooled to -72° C. and treated with 13.3 g (0.05 moles) of dried N-(t-butoxycarbonyl)glycine, benzyl ester in 60 ml of dry tetrahydrofuran. After 50 minutes, the dark yellow homogeneous solution was treated with 5 ml (5.43 g, 0.0543 moles) of tetrahydro-4-pyranone in 50 ml of tetrahydrofuran and the temperature allowed to rise to 0° C. over 1.5 hours. A solution of 7.2 g (0.12 moles) of glacial acetic acid in 20 ml of tetrahydrofuran was added to the purple solution, and the resulting light yellow turbid mixture was poured into 1 L of water and extracted with ethyl acetate. The organic layer was washed with 2% potassium bisulfate, 5% sodium bicarbonate and brine, dried (sodium sulfate) and evaporated to an oil. Chromatography on 800 ml of LPS-1 in hexane:ethyl acetate (1:1) and combination of the product fractions (Rf=0.32 in the same solvent) gave an oil which solidified on trituration with hexane yielding a total of 10.34 g of product as a white solid, melting point 90°-93° C.

reactant | diisopropylamine | 0.127 moles, 17.5 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 0.117 moles, 1.71 M, 70 ml | C(CCC)[Li]
reactant | N-(t-butoxycarbonyl)glycine, benzyl ester | 0.05 moles, 13.3 g | C(C)(C)(C)OC(=O)NCC(=O)OCC1=CC=CC=C1 | C14H19NO4
reactant | tetrahydro-4-pyranone | 0.0543 moles, 5 ml, 5.43 g | O1CCC(CC1)=O | C5H8O2
reactant | acetic acid | 0.12 moles, 7.2 g | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | water | 1 L | O | H2O
product | N-(t-Butoxycarbonyl)-α-(4-hydroxy-2,3,5,6-tetrahydro-4-pyranyl)glycine, benzyl ester | C(C)(C)(C)OC(=O)NC(C(=O)OCC1=CC=CC=C1)C1(CCOCC1)O | C19H27NO6
